US05686445
N-[4-[(6,11-Dihydro-5H-dibenz[b,e]azepin-5-yl)carbonyl]phenyl]-3-methyl-2-thiophenecarboxamide
As described for Example 9, 0.314 g (1 mmol) of 5-(4-aminobenzoyl)-6,11-dihydro-5H-dibenz[b,e]azepine is reacted with 0.177 g (1.1 mmol) of 3-methyl-2-thiophenecarbonyl chloride in 5 ml of dichloromethane and 0.111 g of triethylamine for 2 hours at room temperature to give crystals. Recrystallization from dichloromethane-hexane gives 0.235 g of crystals, m.p. 201°-204° C.

reactant | 5-(4-aminobenzoyl)-6,11-dihydro-5H-dibenz[b,e]azepine | 1 mmol, 0.314 g | NC1=CC=C(C(=O)N2C3=C(CC4=C(C2)C=CC=C4)C=CC=C3)C=C1 | C21H18N2O
reactant | 3-methyl-2-thiophenecarbonyl chloride | 1.1 mmol, 0.177 g | CC1=C(SC=C1)C(=O)Cl | C6H5ClOS
reactant | triethylamine | 0.111 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-[4-[(6,11-Dihydro-5H-dibenz[b,e]azepin-5-yl)carbonyl]phenyl]-3-methyl-2-thiophenecarboxamide | 0.235 g | C1=CC=CC=2N(CC3=C(CC21)C=CC=C3)C(=O)C3=CC=C(C=C3)NC(=O)C=3SC=CC3C | C27H22N2O2S
